US05202335
To a suspension of (E)-3-(cis-hexahydro-2-isoindolinylcarbonyl)-2-(2-thenylidene)propionic acid (150 mg) in ethanol (20 ml) was added 10% Pd-C (70 mg) and the mixture was hydrogenated at room temperature and atmospheric pressure for 16 hours. After the catalyst was filtered off, the solvent was evaporated under reduced pressure. The residue was purified by thin layer chromatography (mobile phase: dichloromethane/methanol=15/1) to give 30 mg of 3-(cis-hexahydro-2-isoindolinylcarbonyl)-2-(2-thenyl)propionic acid as a pale yellow viscous oil.

reactant | (E)-3-(cis-hexahydro-2-isoindolinylcarbonyl)-2-(2-thenylidene)propionic acid | 150 mg | C1N(C[C@@H]2CCCC[C@H]12)C(=O)C\C(\C(=O)O)=C/C1=CC=CS1 | C17H21NO3S
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Pd-C | 70 mg | [Pd] | Pd
product | 3-(cis-hexahydro-2-isoindolinylcarbonyl)-2-(2-thenyl)propionic acid | 30 mg | C1N(C[C@@H]2CCCC[C@H]12)C(=O)CC(C(=O)O)CC1=CC=CS1 | C17H23NO3S
